US09169240B2
Compound R1a. Methyl 2-(6-bromobenzo[d]thiazol-2-yl)propanoate
To a solution of methyl propionate (0.088 mL, 0.89 mmol) and 6-bromo-2-chlorobenzo[d]thiazole (221 mg, 0.89 mmol) in degassed toluene (5 mL) at brine/ice bath temperature was slowly added 1.0 M NaHMDS in THF (2.22 mL, 2.22 mmol). After the addition was complete, the reaction was stirred for 10 min. The mixture was then quenched with sat′d NH4Cl (15 mL) then extracted with EtOAc (2×20 mL). The organic extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with 0-100% EtOAc/hexane to give Compound R1a (198 mg, 0.66 mmol, 74% yield) as a yellow solid. LCMS=1.0 min using analytical method (M), 302.0 (M+H). 1H NMR (400 MHz, CDCl3) δ 8.02 (d, J=1.8 Hz, 1H), 7.87 (d, J=8.8 Hz, 1H), 7.58 (dd, J=8.7, 1.9 Hz, 1H), 4.30 (q, J=7.3 Hz, 1H), 3.78 (s, 3H), 1.75 (d, J=7.3 Hz, 3H).

reactant | methyl propionate | 0.89 mmol, 0.088 mL | C(CC)(=O)OC | C4H8O2
reactant | 6-bromo-2-chlorobenzo[d]thiazole | 0.89 mmol, 221 mg | BrC1=CC2=C(N=C(S2)Cl)C=C1 | C7H3BrClNS
reactant | NaHMDS | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | THF | 2.22 mmol, 2.22 mL | C1CCOC1 | C4H8O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-(6-bromobenzo[d]thiazol-2-yl)propanoate | 74% yield | BrC1=CC2=C(N=C(S2)C(C(=O)OC)C)C=C1 | C11H10BrNO2S
